US05698546
To a solution of diethanolamine (5.0 g, 48 mmol) and triethylamine (8.0 ml) in dichloromethane (75 ml) was added dropwise with stirring under Argon, a solution of diethylchlorophosphate (8.2 g, 48 mmol) in dichloromethane (25 ml) over approximately 15 minutes and then allowed to stir at room temperature overnight. The mixture was washed with brine (50 ml) then dried (Na2SO4) and evaporated in vacuo to give the crude product as a viscous oil. The oil was dissolved in ether (100 ml) and the white solid which precipitated was filtered off (triethylamine hydrochloride). The ether solution was evaporated in vacuo giving N-diethoxyphosphoryldiethanolamine (6.2 g, 54%) as a colourless oil.

reactant | diethanolamine | 48 mmol, 5.0 g | N(CCO)CCO | C4H11NO2
reactant | triethylamine | 8.0 ml | C(C)N(CC)CC | C6H15N
reactant | diethylchlorophosphate | 48 mmol, 8.2 g | C(C)OP(=O)(OCC)Cl | C4H10ClO3P
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-diethoxyphosphoryldiethanolamine | 6.2 g, 54% | C(C)OP(=O)(OCC)N(CCO)CCO | C8H20NO5P
